US07776886B2
A solution of 4-(cyclopropylmethyl)-1-(ethylsulfonyl)piperidine-4-carbonitrile (I-4, 3.1 mg, 11.1 mmol) in 2 M NH3/MeOH (50 mL) was treated with excess Raney Ni and agitated under an atmosphere of H2 (40 psi) in a Parr apparatus. After 5 h, the reaction was filtered through Celite (MeOH wash) and concentrated under reduced pressure to afford 1-[4-(cyclopropylmethyl)-1-(ethylsulfonyl)-piperidin-4-yl]methanamine (I-5, M+H+=261.2) as a yellow oil. This material was used in subsequent reactions without further purification.

reactant | 4-(cyclopropylmethyl)-1-(ethylsulfonyl)piperidine-4-carbonitrile | 11.1 mmol, 3.1 mg | C1(CC1)CC1(CCN(CC1)S(=O)(=O)CC)C#N | C12H20N2O2S
solvent | NH3 MeOH | 2 M, 50 mL | N.CO
catalyst | Ni | [Ni] | Ni
product | 1-[4-(cyclopropylmethyl)-1-(ethylsulfonyl)-piperidin-4-yl]methanamine | C1(CC1)CC1(CCN(CC1)S(=O)(=O)CC)CN | C12H24N2O2S
